US07799775B2
Into 10 ml of acetone, 50 mg of 7-methoxy-1-piperazin-1-ylisoquinoline, 100 mg of 4-fluorobenzyl bromide and 100 mg of triethylamine were added and heated under reflux for 5 hours. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography (methanol:chloroform=1:19) to provide 52 mg (79%) of 1-[4-(4-fluorobenzyl)piperazin-1-yl]-7-methoxyisoquinoline.

reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | 7-methoxy-1-piperazin-1-ylisoquinoline | 50 mg | COC1=CC=C2C=CN=C(C2=C1)N1CCNCC1 | C14H17N3O
reactant | 4-fluorobenzyl bromide | 100 mg | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | triethylamine | 100 mg | C(C)N(CC)CC | C6H15N
product | 1-[4-(4-fluorobenzyl)piperazin-1-yl]-7-methoxyisoquinoline | 52 mg, 79% | FC1=CC=C(CN2CCN(CC2)C2=NC=CC3=CC=C(C=C23)OC)C=C1 | C21H22FN3O
